Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:3].[O:1]=[C:2]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.89041969855
[H:1][C:2]#[C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3],5.09265751893
[C:4]#[C:5][O:6][C:7][H:8].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7][H:8],-5.01943596113
[H:1][C:2][H:3].[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-3.44280293206
[H:7].[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.65993727907
[C:4]([H:5])([H:6])[H:7].[O:1][C:2](=[O:3])[C:8]([H:9])([H:10])[H:11]>>[O:1][C:2]([O:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],0.00996865651041
[H:1][O:2][C:3]#[C:4][C:7](=[C:5][H:6])[H:8]>>[H:1][O:2][C:3][C:4]1=[C:5]([H:6])[C:7]1[H:8],0.460396663339
[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-0.72390615109
[C:1]/[C:2]([H:3])=[C:4](\[O:5][O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([H:3])[C:4]([O:5][O:6])=[C:7]([H:8])[H:9].[H:10],3.13887714449
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.17067049219
[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.72334804227
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])[H:15],3.96110872087
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]=[C:10]([H:11])[H:12],1.7832308846400002
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3](#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2],4.259759370169999
[H:10].[O:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.62749319667
[H:1].[O:2][C@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.53640921034
[C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.73282312085
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:7][H:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][H:8],-3.5287105387300004
[H:14].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:15]([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-1.7413351391799998
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13].[O:1],1.50986545023
[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]#[C:2][C:12]([H:13])([H:14])[H:15].[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],4.580599024940001
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],3.94537864362
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[C:7][H:8])[O:9][H:10]>>[C:6](#[C:7][H:8])[O:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5],-0.8832221969700002
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.9500662062700003
[C:4](#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2][C:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.42128693009
[O:1]=[C:2]=[C:3]1[O:4][C:5][C:6]1([H:7])[H:8]>>[O:1]=[C:2]=[C:3][O:4][C:5]=[C:6]([H:7])[H:8],1.00438743171
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3],4.30882803711
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],4.01137669291
